US05344927
4,5,6,7-Tetrahydrobenzimidazole-5-carboxylic acid sulfate (1.32 g) was refluxed in 10 ml of 1,2-dichloroethane together with 1.78 g of thionyl chloride for 30 minutes, and the excess of thionyl chloride and the solvent were removed by distillation under reduced pressure. To the residue was added 10 ml of 1,2-dichloroethane, and 1.6 ml of indoline was added dropwise thereto at 30° C. or lower while stirring followed by stirring at room temperature for 2 hours. The reaction mixture was successively extracted once with 30 ml of water and twice with 20 ml of water. The combined aqueous layer was adjusted to a pH of 9 to 10 with a 10% sodium hydroxide aqueous solution and then extracted with methylene chloride. The combined methylene chloride layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from ethyl acetate to obtain 1.1 g (82.7%) of 5-(2,3-dihydroindol-1-yl)carbonyl]-4,5,6,7-tetrahydrobenzimidazole.

reactant | 4,5,6,7-Tetrahydrobenzimidazole-5-carboxylic acid sulfate | 1.32 g | S(=O)(=O)(O)O.N1=CNC2=C1CCC(C2)C(=O)O
reactant | thionyl chloride | 1.78 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 4,5,6,7-tetrahydrobenzimidazole | N1=CNC2=C1CCCC2 | C7H10N2
